US06492516B1
Step 1B: 1-(2-methylsulfanylpyrimidin-4-yl)-2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid ethyl ester
To a solution of 2-(3-trifluoromethylphenyl)-1H-imidazole4-carboxylic acid ethyl ester (6.0 g, 0.0211 mol) in dimethyl formamide (60 mL) was added a 60% dispersion of sodium hydride in mineral oil (1.01 g, 0.0253 mol) and stirring was continued until noticeable H2 evolution stopped. 4-Chloro-2-methylthiopyrimidine (3.73 g, 0.0232 mol) was added dropwise and the reaction heated to 120° C. for 2 h and 140° C. overnight. The reaction was cooled and partitioned between H2O (300 mL) and ethyl acetate (300 mL). A small (30 mL) portion of 10% citric acid solution was added before the layers were shaken and separated. The ethyl acetate layer was dried over anhydrous magnesium sulfate and then concentrated to an oil which was chromatographed on silica using 15-35% ethyl acetate in hexanes to yield 6.43 g (75%) of the title compound as an oil.

reactant | 2-(3-trifluoromethylphenyl)-1H-imidazole4-carboxylic acid ethyl ester | 0.0211 mol, 6.0 g | C(C)OC(=O)C=1N=C(NC1)C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-Chloro-2-methylthiopyrimidine | 0.0232 mol, 3.73 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | dimethyl formamide | 60 mL | CN(C=O)C | C3H7NO
product | 1-(2-methylsulfanylpyrimidin-4-yl)-2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 6.43 g, 75% | C(C)OC(=O)C=1N=C(N(C1)C1=NC(=NC=C1)SC)C1=CC(=CC=C1)C(F)(F)F | C18H15F3N4O2S
